US09169254B2
8-[2-(4-tert-Butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-2-(3-hydroxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester (30.0 mg, 43.1 μmol), {2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethyl}-methyl-carbamic acid tert-butyl ester (22.7 mg, 86.2 μmol) and triphenylphosphine (22.6 mg, 86.2 μmol) were dissolved in THF (0.22 mL). TMAD (14.8 mg, 86.2 μmol) was added and the mixture was stirred at 60° C. for 30 minutes in a nitrogen atmosphere. The reaction solution was concentrated under reduced pressure, and the resulting residue was then purified by silica gel column chromatography (hexane-ethyl acetate) to give 2-[3-(2-{2-[2-(tert-butoxycarbonyl-methyl-amino)-ethoxy]-ethoxy}-ethoxy)-5-trifluoromethyl-phenyl]-8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester (37.4 mg, 86%).

reactant | 8-[2-(4-tert-Butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-2-(3-hydroxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester | 43.1 μmol, 30.0 mg | C(C)(C)(C)OC(=O)N1C(=NC2(C1=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C=C2)C(=O)OC(C)(C)C)C)C2=CC(=CC(=C2)C(F)(F)F)O | C33H40F3N3O8S
reactant | {2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethyl}-methyl-carbamic acid tert-butyl ester | 86.2 μmol, 22.7 mg | C(C)(C)(C)OC(N(C)CCOCCOCCO)=O | C12H25NO5
reactant | triphenylphosphine | 86.2 μmol, 22.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | TMAD | 86.2 μmol, 14.8 mg | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
solvent | THF | 0.22 mL | C1CCOC1 | C4H8O
product | 2-[3-(2-{2-[2-(tert-butoxycarbonyl-methyl-amino)-ethoxy]-ethoxy}-ethoxy)-5-trifluoromethyl-phenyl]-8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester | 37.4 mg, 86% | C(C)(C)(C)OC(=O)N1C(=NC2(C1=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C=C2)C(=O)OC(C)(C)C)C)C2=CC(=CC(=C2)C(F)(F)F)OCCOCCOCCN(C)C(=O)OC(C)(C)C | C45H63F3N4O12S
